US07045516B1
5-Chloro-7-methyl-2-(1-piperazinyl)benzoxazole
Piperazine (4.3 g, 0.05 mol) was added to a suspension of 5-chloro-2-mercapto-7-methylbenzoxazole (5.0 g, 0.25 mol) in toluene (100 mL) with stirring. The reaction mixture was stirred for 7 hours under reflux, then cooled, and the mixture was added to a mixture of ethyl acetate (45 mL) and water (80 mL). The mixture was adjusted to pH 7.5 by gradually adding 5 N hydrochloric acid. The separated organic layer was washed with water (80 mL), added with water (80 mL) again, and adjusted to pH 1–1.5 with 5 N hydrochloric acid. The organic layer was removed by phase separation. The remaining aqueous layer was added with ethyl acetate, adjusted to pH 8.0 with 5 N aqueous sodium hydroxide, and then extracted. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain the title compound (4.3 g). This compound may be converted into 5-chloro-7-methyl-2-(1-piperazinyl) benzoxazole hydrochloride by treatment with 4 N hydrochloric acid/ethyl acetate in ethyl acetate.

reactant | Piperazine | 0.05 mol, 4.3 g | N1CCNCC1 | C4H10N2
reactant | 5-chloro-2-mercapto-7-methylbenzoxazole | 0.25 mol, 5.0 g | ClC=1C=C(C2=C(N=C(O2)S)C1)C | C8H6ClNOS
reactant | ethyl acetate | 45 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 mL | O | H2O
product | 5-Chloro-7-methyl-2-(1-piperazinyl)benzoxazole | 4.3 g | ClC=1C=C(C2=C(N=C(O2)N2CCNCC2)C1)C | C12H14ClN3O
